US05760032
Ethyl indole-2-carboxylate (22 g) was dissolved in dimethylformamide (150 ml), and sodium hydride (including 60% oil, 5.12 g) was gradually added with stirring. Then, benzyl bromoacetate (19.2 ml) was added, and the mixture was stirred for 3 hours. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with saturated brine and dried over magnesium sulfate. The solvent was concentrated under reduced pressure. The residue thus obtained as a solid was subjected to silica gel column chromatography and eluted with a mixed solvent of ethyl acetate and hexane to give benzyl 2-ethoxycarbonyl-indole-1-acetate (28.9 g) as an oil. This compound (32.5 g) was dissolved in ethanol (350 ml), and hydrogenated in the presence of palladium/carbon (10%) catalyst at 1 atm. The catalyst was filtered off, and the solvent was concentrated under reduced pressure. The obtained residue was crystallized from isopropyl ether to give 10.22 g of 2-ethoxycarbonyl-indole-1-acetic acid.

reactant | Ethyl indole-2-carboxylate | 22 g | N1C(=CC2=CC=CC=C12)C(=O)OCC | C11H11NO2
reactant | sodium hydride | 5.12 g | [H-].[Na+]
reactant | benzyl bromoacetate | 19.2 ml | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | benzyl 2-ethoxycarbonyl-indole-1-acetate | 28.9 g | C(C)OC(=O)C=1N(C2=CC=CC=C2C1)CC(=O)OCC1=CC=CC=C1 | C20H19NO4
